US05466831
In a stirred vessel, a mixture of 10 g of 3-(2'-tert-butoxyethyl)-dihydro-2(3H)furanone, 50 g of glacial acetic acid, and 5 g of Nafion is heated to 120° C. Following a period of 19 h, the reaction is terminated (conversion: 100%) and the catalyst is separated by filtration. Following purification by distillation, there is obtained 98% of 3-(2'-acetoxyethyl)-dihydro-2(3H)furanone.

reactant | 3-(2'-tert-butoxyethyl)-dihydro-2(3H)furanone | 10 g | C(C)(C)(C)OCCC1C(OCC1)=O | C10H18O3
reactant | acetic acid | 50 g | C(C)(=O)O | C2H4O2
product | 3-(2'-acetoxyethyl)-dihydro-2(3H)furanone | 98% | C(C)(=O)OCCC1C(OCC1)=O | C8H12O4
